US06355653B1
7-(2-Ethyl-pyridin-4-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, mp. 184-186° C. and MS m/e (%): 305 (M+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile | C(C)C1=NC=CC(=C1)/C=C/C#N | C10H10N2
product | 7-(2-Ethyl-pyridin-4-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C(C)C1=NC=CC(=C1)C1=CC=2N(C(=C1)N)N=C(N2)C=2OC=CC2 | C17H15N5O
